US04039543
A mixture of 1.8 g. of 4-methoxy- α -[(methylsulfonyl)methyl]-3,5-di-(pyrrol-1-yl)benzyl alcohol, 0.41 g. of sodium methylate and 1.1 g. of β-anilinopropionitrile in 12 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 3 hours at room temperature. The mixture was diluted with 100 ml. of water, the precipitated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. By purification of the residue over aluminum oxide with benzene and recrystallization from ethyl acetate/petroleum ether, there was obtained α -(anilinomethylene)-4-methoxy-3,5-di(pyrrol-1-yl)hydrocinnamonitrile, having a melting point of 152° C.

reactant | 4-methoxy- α -[(methylsulfonyl)methyl]-3,5-di-(pyrrol-1-yl)benzyl alcohol | COC1=C(C=C(C(CS(=O)(=O)C)O)C=C1N1C=CC=C1)N1C=CC=C1 | C18H20N2O4S
reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (anilinomethylene)-4-methoxy-3,5-di(pyrrol-1-yl)hydrocinnamonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C(=C1)N1C=CC=C1)OC)N1C=CC=C1 | C25H22N4O
